US08044052B2
2-(3-Bromophenoxy)-5-(trifluoromethyl)pyridine
To a solution of 3-bromophenol (5 g, 27.54 mmol) and 2-chloro-5-(trifluoromethyl)pyridine (4.52 g, 26.16 mmol) in DMF (30 mL) was added K2CO3 and the mixture was refluxed at 110° C. overnight. Distilled water (30 mL) and diethyl ether (30 mL) were added and the mixture was stirred for 30 min. The ether layer was dried over Na2SO4 and concentrated to give pure pure title compound (8.0 g). 1H NMR (500 MHz, CDCl3): δ 7.0 (d, 1H, J=10 Hz), 7.1 (d, 1H, J=1.5 Hz), 7.2-7.3 (m, 2H), 7.4 (d, 1H, J=8 Hz), 7.9 (m, 1H), 8.4 (s, 1H).

reactant | 3-bromophenol | 27.54 mmol, 5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 26.16 mmol, 4.52 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2-(3-Bromophenoxy)-5-(trifluoromethyl)pyridine | 8.0 g | BrC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1 | C12H7BrF3NO
